US07592373B2
4.15.b. 3-bromo-4-(2-diethylaminoethoxy)phenylamine
Prepared analogously to Example 3.1.b. from 1.10 g (3.47 mmol) of [2-(2-bromo-4-nitrophenoxy)ethyl]diethylamine in ethyl acetate. Yield: 0.58 g (58% of theory); C12H19BrN2O (M=287.202); calc.: molecular ion peak (M+H)+: 287/289; found: molecular ion peak (M+H)+: 287/289; Rf value: 0.30 (silica gel, dichloromethane/methanol (9:1)).

reactant | [2-(2-bromo-4-nitrophenoxy)ethyl]diethylamine | 3.47 mmol, 1.10 g | BrC1=C(OCCN(CC)CC)C=CC(=C1)[N+](=O)[O-] | C12H17BrN2O3
reactant | dichloromethane methanol | ClCCl.CO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-bromo-4-(2-diethylaminoethoxy)phenylamine | BrC=1C=C(C=CC1OCCN(CC)CC)N | C12H19BrN2O
